US07361672B2
59.3 According to general method B, [3-(4-chloro-benzoylamino)-pyrazol-1-yl]-acetic acid was reacted with 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (CAS 536747-52-1, prepared according to C. F. Bigge et al., patent application WO 2003045912) to give 4-chloro-N-(1-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-methyl}-1H-pyrazol-3-yl)-benzamide. White solid. MS 466.3 ([M+H]+)

reactant | [3-(4-chloro-benzoylamino)-pyrazol-1-yl]-acetic acid | ClC1=CC=C(C(=O)NC2=NN(C=C2)CC(=O)O)C=C1 | C12H10ClN3O3
reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
product | 4-chloro-N-(1-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-methyl}-1H-pyrazol-3-yl)-benzamide | ClC1=CC=C(C(=O)NC2=NN(C=C2)CC(NC2=C(C=C(C=C2)N2C(C=CC=C2)=O)F)=O)C=C1 | C23H17ClFN5O3
